US08283354B2
(R)-1-(4-(2-Chloro-7-methylquinazolin-4-yl)piperazin-1-yl)-2-hydroxy-4-methylpentan-1-one (50 mg, 0.13 mmol), 5-fluoro-2-methoxyphenylboronic acid (27 mg, 0.16 mmol), Pd(Ph3P)4 (9.2 mg, 0.008 mmol), and K2CO3 (37 mg, 0.27 mmol) were placed into a microwave tube charged with a stir bar. Acetonitrile (2 mL) and H2O (400 μL) were added, and the vessel was capped and heated at 160° C. for 12 minutes in the microwave reactor. The reaction was partitioned between EtOAc and H2O, the layers were separated, and the aqueous layer was extracted once more with EtOAc. The organic extracts were combined, dried over Na2SO4, filtered, and concentrated to an orange gel. The reaction was purified by silica gel chromatography using 10%-30% EtOAc in CH2Cl2/hexanes (2:1) to afford (R)-1-(4-(2-(5-fluoro-2-methoxyphenyl)-7-methylquinazolin-4-yl)piperazin-1-yl)-2-hydroxy-4-methylpentan-1-one as a white foam (70%). LC/MS: m/z 467.30 (M+H)+ at 2.38 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)).

reactant | (R)-1-(4-(2-Chloro-7-methylquinazolin-4-yl)piperazin-1-yl)-2-hydroxy-4-methylpentan-1-one | 0.13 mmol, 50 mg | ClC1=NC2=CC(=CC=C2C(=N1)N1CCN(CC1)C([C@@H](CC(C)C)O)=O)C | C19H25ClN4O2
reactant | 5-fluoro-2-methoxyphenylboronic acid | 0.16 mmol, 27 mg | FC=1C=CC(=C(C1)B(O)O)OC | C7H8BFO3
reactant | K2CO3 | 0.27 mmol, 37 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | Acetonitrile | 2 mL | C(C)#N | C2H3N
catalyst | Pd(Ph3P)4 | 0.008 mmol, 9.2 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | H2O | 400 μL | O | H2O
product | (R)-1-(4-(2-(5-fluoro-2-methoxyphenyl)-7-methylquinazolin-4-yl)piperazin-1-yl)-2-hydroxy-4-methylpentan-1-one | 70% | FC=1C=CC(=C(C1)C1=NC2=CC(=CC=C2C(=N1)N1CCN(CC1)C([C@@H](CC(C)C)O)=O)C)OC | C26H31FN4O3
